US08536198B2
N-((1R,2S)-2-((S)-4-(4-Chlorophenyl)-4-hydroxy-3,3-dimethylpiperidine-1-carbonyl)cyclopentyl)-3-(2H-tetrazol-5-yl)benzamide
Example 24 was prepared from 3-(2-(benzyloxymethyl)-2H-tetrazol-5-yl)-N-((1R,2S)-2-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidine-1-carbonyl)cyclopentyl)benzamide using similar conditions as described in Example 22. MS (ESI+)=523 (M)+. 1H NMR (CD3OD, 500 MHz) (NMR shows several rotamers) (NMR indicates contamination with 0.5 eq. (mol) of benzyl alcohol—chemical shifts for contaminant not reported) δ 8.46 (s, 0.3H), 8.39 (s, 0.7H), 8.24 (d, J=8.0 Hz, 0.3H), 8.20 (d, J=8.0 Hz, 0.7H), 7.97 (d, J=8.3 Hz, 0.3H), 7.91 (d, J=8.3 Hz, 0.7H), 7.73 (t, J=7.8 Hz, 0.3H), 7.67 (t, J=7.7 Hz, 0.7H), 7.45 d, J=8.8 Hz, 1.4H), 7.33 d, J=8.8 Hz, 0.6H), 7.28 (d, J=8.5 Hz, 1.4H), 7.19 (d, J=8.5 Hz, 0.6H), 4.79 (q, J=7.4 Hz, 0.7H), 4.62-4.54 (m, 0.6H), 4.15-4.06 (m, 0.7H), 4.02 (d, J=12.7 Hz, 0.7H), 3.66-3.51 (m, 2.3H), 3.18-3.06 (m, 0.3H), 2.94 (d, J=12.4 Hz, 0.7H), 2.71 (td, J=13.5, 4.7 Hz, 0.7H), 2.49 (td, J=13.3, 4.4 Hz, 0.3H), 2.29-1.80 (m, 5H), 1.76-1.63 (m, 1H), 1.53 (d, J=14.0 Hz, 0.7H), 1.50-1.44 (m, 0.3H), 0.80 (s, 0.8H), 0.77-0.68 (m, 5.2H). [LCMS method: Inj. Vol.=10 uL; Start % B=0; Final % B=100; Gradient Time=2 min; Flow Rate=5 ml/min; Wavelength=220 nm; Solvent A=10% MeOH-90% H2O-0.1% TFA; Solvent B=90% MeOH-10% H2O-0.1% TFA; Column 1=Sunfire S5 C18 4.6×30 mm (2 min grad); Retention Time=1.90 minutes.]

reactant | 3-(2-(benzyloxymethyl)-2H-tetrazol-5-yl)-N-((1R,2S)-2-((S)-4-(4-chlorophenyl)-4-hydroxy-3,3-dimethylpiperidine-1-carbonyl)cyclopentyl)benzamide | C(C1=CC=CC=C1)OCN1N=C(N=N1)C=1C=C(C(=O)N[C@H]2[C@H](CCC2)C(=O)N2CC([C@@](CC2)(O)C2=CC=C(C=C2)Cl)(C)C)C=CC1 | C35H39ClN6O4
reactant | benzyl alcohol | 0.5 eq. | C(C1=CC=CC=C1)O | C7H8O
solvent | MeOH | CO | CH4O
product | N-((1R,2S)-2-((S)-4-(4-Chlorophenyl)-4-hydroxy-3,3-dimethylpiperidine-1-carbonyl)cyclopentyl)-3-(2H-tetrazol-5-yl)benzamide | ClC1=CC=C(C=C1)[C@@]1(C(CN(CC1)C(=O)[C@@H]1[C@@H](CCC1)NC(C1=CC(=CC=C1)C=1N=NNN1)=O)(C)C)O | C27H31ClN6O3
